US08669234B2
To a solution of 2-methoxycarbonylamino-3-methyl-butyric acid (1.11 g, 6.33 mmol) and HATU (2.41 g, 6.34 mmol) in dimethylformamide (13 mL) was added a solution of 5-oxa-6-aza-spiro[3.4]octane-7-carboxylic acid ethyl ester (980 mg, 5.3 mmol) in dimethylformamide (13 mL). To the resulting reaction mixture was added diisopropylethylamine (1.85 mL, 10.6 mmol) and the reaction was heated to 60° C. for 16 hours. The reaction was diluted with ethyl acetate, washed with water and brine, dried (MgSO4) and concentrated. The resulting residue was purified by flash chromatography to give 6-(2-methoxycarbonylamino-3-methyl-butyryl)-5-oxa-6-aza-spiro[3.4]octane-7-carboxylic acid ethyl ester (1.31 g, 72%). LCMS-ESI+: calculated for C16H26N2O6: 342.18; observed [M+1]+: 342.90.

reactant | 2-methoxycarbonylamino-3-methyl-butyric acid | 6.33 mmol, 1.11 g | COC(=O)NC(C(=O)O)C(C)C | C7H13NO4
reactant | HATU | 6.34 mmol, 2.41 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-oxa-6-aza-spiro[3.4]octane-7-carboxylic acid ethyl ester | 5.3 mmol, 980 mg | C(C)OC(=O)C1NOC2(CCC2)C1 | C9H15NO3
reactant | diisopropylethylamine | 10.6 mmol, 1.85 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 13 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 13 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(2-methoxycarbonylamino-3-methyl-butyryl)-5-oxa-6-aza-spiro[3.4]octane-7-carboxylic acid ethyl ester | 1.31 g, 72% | C(C)OC(=O)C1N(OC2(CCC2)C1)C(C(C(C)C)NC(=O)OC)=O | C16H26N2O6
